US08293763B2
Step 4: 3-Chloro-2-formylaminomethyl-isonicotinic acid methylester
A mixture of 3-chloro-2-cyano-isonicotinic acid methyl ester (2.9 g, 14.8 mmol) and 10% palladium on charcoal (293 mg) in acetic acid (65 mL) was degassed and backfilled with hydrogen three times. The reaction mixture was stirred at room temperature under an atmosphere of hydrogen (1 bar) for 18 hours and then filtered. The filtrate was concentrated under reduced pressure to give a residue which was dissolved in methanol and loaded onto a 50 g Isolute® SCX-2 cartridge, eluted with methanol followed by a 2M solution of ammonia in methanol. The appropriate fractions were combined and concentrated under reduced pressure to give a residue. The residue was dissolved in a mixture of formic acid (40 mL) and acetic anhydride (8 mL), which was stirred at room temperature for 30 minutes. The solvents were removed under reduced pressure to give a residue which was dissolved in dichloromethane. The resulting solution was washed with a saturated solution of sodium hydrogen carbonate, the aqueous layer was separated and extracted twice with dichloromethane. The combined organic extracts were passed through a phase separator and concentrated under reduced pressure to give a residue that was subjected to column chromatography (Si-PPC, gradient 0% to 10%, methanol in dichloromethane). The title compound was obtained as a white solid (1.5 g, 44%). LCMS (method B): RT=2.15 min, [M+H]+=229.

reactant | 3-chloro-2-cyano-isonicotinic acid methyl ester | 14.8 mmol, 2.9 g | COC(C1=C(C(=NC=C1)C#N)Cl)=O | C8H5ClN2O2
reactant | acetic acid | 65 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 293 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | formic acid | 40 mL | C(=O)O | CH2O2
solvent | acetic anhydride | 8 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Chloro-2-formylaminomethyl-isonicotinic acid methylester | COC(C1=C(C(=NC=C1)CNC=O)Cl)=O | C9H9ClN2O3
